US06803484B2
To a dry 3-Liter round bottom flask under nitrogen was charged 2-phenyl-1-propylamine HCl (317.2 g, 1.85 moles), dry ethanol (2.0 L) and NaOH beads (75.4 g, 1.89 moles) that were washed in with additional ethanol (500 mL). The mixture was stirred for 1.6 hours, and the resulting milky white NaCl salts were filtered. An aliquot of the filtrate was analyzed by gas chromatography to provide the amount of free amine, 2-phenyl-1-propylamine, (1.85 moles). A solution of L-malic acid (62.0 g, 0.462 mole, 0.25 equivalents) in ethanol (320 mL) was added dropwise to the yellow filtrate and the solution was heated to 75° C. The solution was stirred at 75° C. for 30 minutes. The heat was is removed and the solution was allowed to cool slowly. The resulting thick precipitate was allowed to stir overnight. The precipitate was filtered and dried under vacuum after rinsing with ethanol (325 mL) to afford (2R)-2-phenylpropylamine malate (147.6 g, 39.5%) as a white crystalline solid. Chiral GC analysis of the free base, 2-phenyl-1-propylamine revealed 83.2% e.e. enriched in the R-isomer (configuration was assigned via spectrometric comparison, via chiral HPLC, with commercially available (R)-2-phenyl-1-propylamine).

reactant | 2-phenyl-1-propylamine HCl | 1.85 moles, 317.2 g | Cl.C1(=CC=CC=C1)C(CN)C
reactant | NaOH | [OH-].[Na+]
solvent | ethanol | 2.0 L | C(C)O | C2H6O
product | 2-phenyl-1-propylamine | 1.85 moles | C1(=CC=CC=C1)C(CN)C | C9H13N
